US09302989B2
N-{4-[1-(pyridin-2-ylcarbonyl)piperidin-4-yl]butyl}-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 278, substituting picolinoyl chloride for acetyl chloride and N-[4-(piperidin-4-yl)butyl]-1,3-dihydro-2H-isoindole-2-carboxamide for 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.56 (d, J=4.76 Hz, 1H) 7.83-7.97 (m, 1H) 7.38-7.57 (m, 2H) 7.18-7.40 (m, 4H) 6.27 (t, J=5.55 Hz, 1H) 4.56 (s, 4H) 4.47 (d, J=13.09 Hz, 1H) 3.59 (d, J=13.88 Hz, 1H) 3.00-3.16 (m, 3H) 2.92-3.01 (m, 1H) 2.68-2.81 (m, 1H) 1.77 (d, J=12.69 Hz, 1H) 0.97-1.64 (m, 11H); MS (ESI(+)) m/e 407 (M+H)+.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | N-[4-(piperidin-4-yl)butyl]-1,3-dihydro-2H-isoindole-2-carboxamide | N1CCC(CC1)CCCCNC(=O)N1CC2=CC=CC=C2C1 | C18H27N3O
reactant | 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | NC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H22N4O2
product | N-{4-[1-(pyridin-2-ylcarbonyl)piperidin-4-yl]butyl}-1,3-dihydro-2H-isoindole-2-carboxamide | N1=C(C=CC=C1)C(=O)N1CCC(CC1)CCCCNC(=O)N1CC2=CC=CC=C2C1 | C24H30N4O2
